* c:\users\itops\desktop\esim1\neww\neww.cir

.include avsd_opamp.sub
* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ count24
* u7  net-_u5-pad6_ net-_u5-pad5_ net-_u5-pad4_ net-_u5-pad3_ net-_u4-pad~_ net-_u3-pad~_ net-_u2-pad~_ net-_u1-pad~_ adc_bridge_4
v1 gnd net-_u5-pad2_  dc 1
v2 net-_x1-pad4_ gnd  dc 1
v3 net-_x1-pad1_ gnd  dc 1
v5 gnd net-_x1-pad2_  dc 1
* u1  net-_u1-pad~_ plot_v1
* u2  net-_u2-pad~_ plot_v1
* u3  net-_u3-pad~_ plot_v1
* u4  net-_u4-pad~_ plot_v1
* u6  gnd plot_v1
* u8  gnd plot_v1
x1 net-_x1-pad1_ net-_x1-pad2_ net-_x1-pad1_ net-_x1-pad4_ net-_x1-pad4_ gnd avsd_opamp
x2 net-_x1-pad1_ net-_x1-pad2_ net-_x1-pad1_ net-_x1-pad4_ net-_u5-pad1_ gnd avsd_opamp
a1 [net-_u5-pad1_ ] [net-_u5-pad2_ ] [net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ ] u5
a2 [net-_u5-pad6_ net-_u5-pad5_ net-_u5-pad4_ net-_u5-pad3_ ] [net-_u4-pad~_ net-_u3-pad~_ net-_u2-pad~_ net-_u1-pad~_ ] u7
* Schematic Name:                             count24, NgSpice Name: count24
.model u5 count24(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=45 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(net-_u1-pad~_)
plot v(net-_u2-pad~_)
plot v(net-_u3-pad~_)
plot v(net-_u4-pad~_)
plot v(gnd)
plot v(gnd)
.endc
.end
